US07012074B2
(g) 8-Benzyl-3,8-diazabicyclo[3.2.1]octane
A mixture of 8-benzyl-3-(2-propenyl)-3,8-diazabicyclo[3.2.1]octane (22.2 g, 92.7 mmol), 1,3-dimethylbarbituric acid (21.5 g, 137.0 mmol), Pd2(dba)3 (5 g, 5 mmol) and P(C6H5)3 (5.2 g, 20.0 mmol) in methylene chloride (500 mL) was heated at reflux for 16 h. The reaction was poured into 1 N HCl (250 mL) at 0° C. The aqueous acidic layer was separated and made basic with 6 N NaOH, then extracted with ethyl acetate (2×150 mL).

reactant | 8-benzyl-3-(2-propenyl)-3,8-diazabicyclo[3.2.1]octane | 92.7 mmol, 22.2 g | C(C1=CC=CC=C1)N1C2CN(CC1CC2)CC=C | C16H22N2
reactant | 1,3-dimethylbarbituric acid | 137.0 mmol, 21.5 g | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
reactant | P(C6H5)3 | 20.0 mmol, 5.2 g | P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | HCl | 1 N, 250 mL | Cl | ClH
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 5 mmol, 5 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 8-Benzyl-3,8-diazabicyclo[3.2.1]octane | C(C1=CC=CC=C1)N1C2CNCC1CC2 | C13H18N2
